US07307094B2
Methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate was prepared from methyl 3-hydroxyanthranilate and 4-methoxybenzoyl chloride as described in Step A of Example 1. The product was obtained as an off-white solid in 18% yield. δ 8.29 (m, 2H), 8.01 (dd, J=7.8, 1.0 Hz, 1H), 7.74 (dd, J=8.1, 1.0 Hz, 1H), 7.37 (t, J=7.9 Hz, 1H), 7.03 (m, 2H), 4.06 (s, 3H); 3.91 (s, 3H); MS (ESI) m/z 284 [M+H]+.

reactant | methyl 3-hydroxyanthranilate | OC1=C(C(C(=O)OC)=CC=C1)N | C8H9NO3
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | Methyl 2-(4-methoxyphenyl)benzoxazole-4-carboxylate | 18% yield | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C16H13NO4
